US04795483
(a) 3-benzylthio-5-(2,2-dimethoxyethylthio)-1,2,4-triazole
Bromoacetaldehyde dimethyl acetal (7.8 g) was added portionwise to 3-benzylthio-5-mercapto-1,2,4-triazole (10 g) and sodium methoxide (2.5 g) in dimethylformamide (60 ml) under nitrogen. The mixture was heated at about 110° C. for 5 hours. Addition to water and isolation through ether gave 12.6 g of desired product, mp 73°-76° C.

reactant | Bromoacetaldehyde dimethyl acetal | 7.8 g | COC(CBr)OC | C4H9BrO2
reactant | 3-benzylthio-5-mercapto-1,2,4-triazole | 10 g | C(C1=CC=CC=C1)SC1=NNC(=N1)S | C9H9N3S2
reactant | sodium methoxide | 2.5 g | C[O-].[Na+]
reactant | water | O | H2O
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
product | 3-benzylthio-5-(2,2-dimethoxyethylthio)-1,2,4-triazole | 12.6 g | C(C1=CC=CC=C1)SC1=NNC(=N1)SCC(OC)OC | C13H17N3O2S2
